US09447114B2
To a solution of 1-(3-chlorophenyl)ethanone (1.54 g, 10 mmol), 4-chlorobenzaldehyde (1.4 g, 10 mmol) in EtOH (25 mL) was added aq. KOH (50% wt, 10 mmol, 0.56 mL). The reaction was stirred at RT for 2 h then filtered the insoluble white solid. The solid was dried and washed with PE/EA (5:1, 10 mL) to give 1-(3-chlorophenyl)-3-(4-chlorophenyl)prop-2-en-1-one (2.3 g, 83% yield) as a white solid. LCMS: MH+ 277 and TR=2.050 min. Used without further purification.

reactant | 1-(3-chlorophenyl)ethanone | 10 mmol, 1.54 g | ClC=1C=C(C=CC1)C(C)=O | C8H7ClO
reactant | 4-chlorobenzaldehyde | 10 mmol, 1.4 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | KOH | [OH-].[K+]
solvent | EtOH | 25 mL | CCO | C2H6O
product | 1-(3-chlorophenyl)-3-(4-chlorophenyl)prop-2-en-1-one | 2.3 g, 83% yield | ClC=1C=C(C=CC1)C(C=CC1=CC=C(C=C1)Cl)=O | C15H10Cl2O
